US06344459B1
To a stirred solution of 4-[(3-bromophenyl)amino]6-[(3-morpholinopropyl)amino]pyrido[3,4-d]pyrimidine (400 mg, 0.90 mmol), (prepared from 4-[(3-bromophenyl) amino]-6-fluoropyrido[3,4-d]pyrimidine and 3-morpholinoprop-1-ylamine) DMAP (40 mg) and Et3N (excess, 2.0 mL) at 0° C. under N2 was added acryloyl chloride (1.2 mol eq., 1.08 mmol, 89 μL). After 1 hour stirring, a further two portions of acid chloride (89 μL each) were added over the next 2 hours, and the reaction was then stirred at 20° C. for 1 hour, diluted with water and extracted with EtOAc. The combined organic extracts were washed with brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure before being chromatographed on silica gel eluting with MeOH/EtOAc (1:9) to MeOH/EtOAc (1:5) to give N-[4-[(3-bromophenyl)amino]pyrido[3,4-d]pyrimidin6-yl]-N-[3-morpholinopropyl]acrylamide] (142 mg, 32%) as a cream powder, mp (CH2Cl2/hexane) 178-180° C.

reactant | 4-[(3-bromophenyl)amino]6-[(3-morpholinopropyl)amino]pyrido[3,4-d]pyrimidine | 0.90 mmol, 400 mg | BrC=1C=C(C=CC1)NC=1C2=C(N=CN1)C=NC(=C2)NCCCN2CCOCC2 | C20H23BrN6O
reactant | Et3N | 2.0 mL | CCN(CC)CC | C6H15N
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
catalyst | DMAP | 40 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | N-[4-[(3-bromophenyl)amino]pyrido[3,4-d]pyrimidin6-yl]-N-[3-morpholinopropyl]acrylamide | BrC=1C=C(C=CC1)NC=1C2=C(N=CN1)C=NC(=C2)N(C(C=C)=O)CCCN2CCOCC2 | C23H25BrN6O2
